US07241317B2
Step 1: Synthesis of 1-methyl-4-(4-nitrophenyl)-[1,4]diazepane (1)
Fluoronitrobenzene (10.3 g, 0.073 mol) is dissolved in water and then potassium carbonate (12.1 g, 0.0876 mol) is added. 1-Methyl[1,4]diazepane (10 g, 0.0876 mol) is introduced and then the reaction medium is heated under reflux (≅100° C.) for 5 hours. The medium is cooled. A precipitate forms, which is filtered and washed with water. A yellow solid is recovered, which is dried at 45° C. in a vacuum oven (16.21 g, yield=94.5%).

reactant | Fluoronitrobenzene | 0.073 mol, 10.3 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 0.0876 mol, 12.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-Methyl[1,4]diazepane | 0.0876 mol, 10 g | CN1CCNCCC1 | C6H14N2
solvent | water | O | H2O
product | 1-methyl-4-(4-nitrophenyl)-[1,4]diazepane | yield=94.5% | CN1CCN(CCC1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H17N3O2
